US04387230
cis 1-Ethyl-3-hydroxy-5-phenylpiperidine
5-Phenyl-3-piperidinol (5.2 g), tetramethylpiperidine (8.3 ml) and iodoethane (1.97 ml) was stirred at room temperature in methanol (100 ml) for 48 hours. The methanol was removed under reduced pressure and excess 2 M NaOH added. The oil was extracted with ether and washed with brine. After drying (MgSO4) the ether was removed and the product crystallised affording, after recrystallisation from cyclohexane, 3.2 g of pure title compound which could be converted to the hydrochloride salt m.p. 182°-4° C.

reactant | 5-Phenyl-3-piperidinol | 5.2 g | C1(=CC=CC=C1)C1CC(CNC1)O | C11H15NO
reactant | tetramethylpiperidine | 8.3 ml | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | iodoethane | 1.97 ml | ICC | C2H5I
solvent | methanol | 100 ml | CO | CH4O
product | cis 1-Ethyl-3-hydroxy-5-phenylpiperidine | C(C)N1C[C@H](C[C@H](C1)C1=CC=CC=C1)O | C13H19NO
